* OVERALL BEST CANDIDATE: 00_Phase_1_5V_USB_to_12V_Sensor_Boost_g1_cand3_b2
* FITNESS SCORE: 0.9827
*
* Generated: 2026-06-04T15:56:47
* Constraint: Phase 1: 5V USB to 12V Sensor (Boost)
*   vin_min = 4.5
*   vin_max = 5.5
*   vout_target = 12
*   efficiency_target = 0.78
*   power_in = 10
* Candidate: 3 of 12
* Grouped name: g1_cand3
*
* 5V to 12V Boost Converter
Vin in 0 5
L1 in sw 10u
M1 sw gate 0 0 NMOS W=1 L=1
D1 sw out DIODE
C1 out 0 100u
Rload out 0 6
Vgate gate 0 PULSE(0 12 0 1n 1n 5.8u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 1u 10m
.save V(*) I(*)
.end
